US08633186B2
2-((2-methylcyclopropyl)methoxy)-6-nitrobenzonitrile
Prepared as in Example 166d from (2-methylcyclopropyl)methanol and 2,6-dinitrobenzonitrile in 81% yield. MS 233 (MH+).

reactant | (2-methylcyclopropyl)methanol | CC1C(C1)CO | C5H10O
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-((2-methylcyclopropyl)methoxy)-6-nitrobenzonitrile | 81% yield | CC1C(C1)COC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C12H12N2O3
